US05792218
Preparation of N-Octyl Morpholinium Acetonitrile (OMA):
Combined were 51.5 g of octylbromide, 29.88 g morpholine, and 28.0 g anhydrous sodium carbonate with 150 ml of acetone in a large round bottom flask. This mixture was refluxed for 8 hours at the boiling point of acetone or approximately 60° C., then cooled to room temperature and the solid sodium carbonate filtered. Acetone was removed using a roto-evaporator. The resulting oil was dissolved in ether and washed twice with water and once with brine solution. The ether solution was dried over anhydrous sodium sulfate. After filtering, ether was removed in-vacuo, leaving a slightly-colored oil. Gas chromatography showed the oil to be N-octyl morpholine, obtained with a yield of 98% and having greater than 95% purity. Combined were 2.3 g of N-octyl morpholine together with 1.0 g of chloroacetonitrile in a small vial. After capping the vial was heated to 55° C. for approximately 24 hours. A viscous oil resulted which solidified upon addition of a small amount of ethylacetate. The solid was filtered and washed with excess ethylacetate, then dried in a vacuum dessicator resulting in the isolation of a white solid, in a yield of approximately 84%. Carbon-13 NMR analysis revealed the desired product present with no other detectable impurities noted.

reactant | octylbromide | 51.5 g | C(CCCCCCC)Br | C8H17Br
reactant | morpholine | 29.88 g | N1CCOCC1 | C4H9NO
reactant | sodium carbonate | 28.0 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | N-octyl morpholine | C(CCCCCCC)N1CCOCC1 | C12H25NO
reactant | N-octyl morpholine | 2.3 g | C(CCCCCCC)N1CCOCC1 | C12H25NO
reactant | chloroacetonitrile | 1.0 g | ClCC#N | C2H2ClN
reactant | Carbon-13 | [13CH4] | CH4
solvent | ethylacetate | C(C)OC(C)=O | C4H8O2
solvent | acetone | CC(=O)C | C3H6O
solvent | acetone | 150 ml | CC(=O)C | C3H6O
product | N-Octyl Morpholinium Acetonitrile | yield of 98% | C(C)#N.C(CCCCCCC)[NH+]1CCOCC1 | InChI=1S/C12H25NO.C2H3N/c1-2-3-4-5-6-7-8-13-9-11-14-12-10-13;1-2-3/h2-12H2,1H3;1H3/p+1
